US08440658B2
To a solution of (S)-3-amino-2-methylbutan-2-ol (4 g, 38.8 mmol) and imidazole (5.20 g, 77.7 mmol) in CH2Cl2 (50 mL) was added TBSCl (8.7 g, 57.7 mmol) at 0° C. The mixture was stirred overnight. The mixture was washed with brine. The organic phase was separated and concentrated to give (S)-3-(tert-butyldimethylsilyloxy)-3-methylbutan-2-amine (8.4 g, 100%), which was used for the next step without purification. 1H NMR (CDCl3): 0.00 (s, 6H), 0.73 (s, 9H), 1.08 (s, 3H), 1.12 (d, 3H), 1.21 (s, 3H), 2.83 (q, 1H), 4.08 (brs, 1H).

reactant | (S)-3-amino-2-methylbutan-2-ol | 38.8 mmol, 4 g | N[C@H](C(C)(O)C)C | C5H13NO
reactant | imidazole | 77.7 mmol, 5.20 g | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 57.7 mmol, 8.7 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(tert-butyldimethylsilyloxy)-3-methylbutan-2-amine | 8.4 g, 100% | [Si](C)(C)(C(C)(C)C)OC([C@H](C)N)(C)C | C11H27NOSi
